US06150460
A mixture of 5.66 g of 1,6-hexanediol (0.048 moles), 12 g of N-carbamylmaleimide (0.086 moles) and 0.3 g of zinc chloride (0.0022 moles) in 70 mL of acetonitrile was heated to reflux. After 3 hours, a lot of solid material had been produced from the mixture. The mixture was filtered and the solids washed with acetonitrile and dried to afford 12.1 g of 1,6-hexanediol bismaleurate.

reactant | 1,6-hexanediol | 0.048 moles, 5.66 g | C(CCCCCO)O | C6H14O2
reactant | N-carbamylmaleimide | 0.086 moles, 12 g | C(N)(=O)N1C(C=CC1=O)=O | C5H4N2O3
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
catalyst | zinc chloride | 0.0022 moles, 0.3 g | [Cl-].[Zn+2].[Cl-]
product | 1,6-hexanediol bismaleurate | 12.1 g | C(\C=C/C(NC(N)=O)=O)(=O)OCCCCCCOC(\C=C/C(NC(N)=O)=O)=O | C16H22N4O8
